US07271197B2
ii) N-[3-(4-{[tert-Butyl(dimethyl)silyl]oxy}butyl)phenyl]urea
A solution of 3-(4-{[tert-butyl(dimethyl)silyl]oxy}butyl)aniline (5.16 g) in dry DCM (50 ml) was treated dropwise with a solution of trichloroacetyl isocyanate (2.36 ml) in dry DCM (6 ml) over 10 min. The reaction mixture was stirred at room temperature for 10 min prior to addition of 2M NaOH (50 ml). The reaction mixture was stirred at 70° C. for 5 h and room temperature for 16 h. The aqueous phase was extracted with DCM and the combined organic layers washed with water and concentrated in vacuo. The residue was purified by chromatography (biotage, EtOAc-Petrol 2:1) to give the title compound. LCMS RT=3.78 min.

reactant | 3-(4-{[tert-butyl(dimethyl)silyl]oxy}butyl)aniline | 5.16 g | [Si](C)(C)(C(C)(C)C)OCCCCC=1C=C(N)C=CC1 | C16H29NOSi
reactant | trichloroacetyl isocyanate | 2.36 ml | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | NaOH | 2M, 50 ml | [OH-].[Na+]
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(4-{[tert-Butyl(dimethyl)silyl]oxy}butyl)phenyl]urea | [Si](C)(C)(C(C)(C)C)OCCCCC=1C=C(C=CC1)NC(=O)N | C17H30N2O2Si
